US05364871
A mixture of N,N-dimethylglycine hydrochloride (1.5 g), 1-hydroxybenzotriazole hydrate (1.5 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.1 g) in N,N-dimethylformamide (15 ml) was stirred for 1 hour at ambient temperature. The above mixture was added to a mixture of 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride (3.0 g) and triethylamine (3.5 ml) in N,N-dimethylformamide (45 ml) and the mixture was stirred for 2 hours at ambient temperature. The solvent was removed by concentration and the residue was dissolved in a mixture of tetrahydrofuran, ethyl acetate and water. The mixture was adjusted to pH 13.5 With 5N-sodium hydroxide. The separated organic layer was washed with brine and evaporated in vacuo. The residue was triturated with ethyl acetate to give 2-(diaminomethyleneamino)-4-(6-dimethylaminoacetylaminomethylpyridin-2-yl)thiazole (1.96 g).

reactant | N,N-dimethylglycine hydrochloride | 1.5 g | Cl.CN(CC(=O)O)C
reactant | 1-hydroxybenzotriazole hydrate | 1.5 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.1 g | Cl.CN(CCCN=C=NCC)C
reactant | 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride | 3.0 g | Cl.Cl.Cl.NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
product | 2-(diaminomethyleneamino)-4-(6-dimethylaminoacetylaminomethylpyridin-2-yl)thiazole | 1.96 g | NC(N)=NC=1SC=C(N1)C1=NC(=CC=C1)CNC(CN(C)C)=O | C14H19N7OS
